US09079866B2
5-(4′-Bromo-2′,3-difluorobiphenyl-4-yl)-1H-pyrrolo[2,3-b]pyridine
The title compound was prepared in a manner similar to that described for Intermediate HF heating at 90° Celsius for 16 hours and using 5-bromo-1H-pyrrolo[2,3-b]pyridine and 4-bromo-2-fluorobenzeneboronic acid. MS (ESI): mass calcd. for C19H11BrF2N2, 384.01; m/z found, 385.0, 387.0 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 12.29 (s, 1H), 8.47 (s, 2H), 7.60-7.50 (m, 2H), 7.50-7.34 (m, 5H), 6.73 (s, 1H).

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | 4-bromo-2-fluorobenzeneboronic acid | BrC1=CC(=C(C=C1)B(O)O)F | C6H5BBrFO2
product | 5-(4′-Bromo-2′,3-difluorobiphenyl-4-yl)-1H-pyrrolo[2,3-b]pyridine | BrC1=CC(=C(C=C1)C1=CC(=C(C=C1)C=1C=C2C(=NC1)NC=C2)F)F | C19H11BrF2N2
